US07897597B2
A modification of the general method described in Example 41 was followed using 1-(2-methylpropyl)-7-(2-nitrophenoxy)-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine, prepared as described in Example 36, in lieu of 1-(2-methylpropyl)-7-(4-nitrophenoxy)-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine. When the reaction was complete, the reaction mixture was filtered through a layer of CELITE filter aid, and the filter cake was washed with methanol and methanol:dichloromethane. Following treatment with the ion exchange resin, the crude product was purified by column chromatography on silica gel (eluting with dichloromethane:methanol ranging in ratios from 98:2 to 94:6). The white, waxy solid was recrystallized from acetonitrile to yield 0.150 g of 7-(2-aminophenoxy)-1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine as tan crystals, mp 197-199° C.

reactant | 1-(2-methylpropyl)-7-(2-nitrophenoxy)-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine | CC(CN1C(=NC=2C(=NC=3C=C(C=CC3C21)OC2=C(C=CC=C2)[N+](=O)[O-])N)CCC)C | C23H25N5O3
reactant | 1-(2-methylpropyl)-7-(4-nitrophenoxy)-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine | CC(CN1C(=NC=2C(=NC=3C=C(C=CC3C21)OC2=CC=C(C=C2)[N+](=O)[O-])N)CCC)C | C23H25N5O3
product | 7-(2-aminophenoxy)-1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 0.150 g | NC1=C(OC=2C=CC=3C4=C(C(=NC3C2)N)N=C(N4CC(C)C)CCC)C=CC=C1 | C23H27N5O
